US04820727
(3) Preparation of N-[[2-Chloro-6-methoxy-5-(trifluoromethyl)-1-naphthalenyl]carbonyl]-N-(ethoxycarbonyl)glycine
A suspension of N-[[2-chloro-6-methoxy-5-(trifluoromethyl)-1-naphthalenyl]carbonyl]-N-(ethoxycarbonyl)glycine, 1,1-dimethylethyl ester (3.13 g, 6.39 mmol) in formic acid (120 mL) was stirred for 3 hours at room temperature under a dry nitrogen atmosphere. Dissolution occurred after an hour. The reaction mixture was diluted with water (1.5 L) and extracted with ether. The extracts were combined, washed well with water and concentrated to leave an oil. The oil was diluted with water and extracted with chloroform. The extracts were combined, dried over magnesium sulfate, filtered and concentrated. The crude solid was recrystallized from benzene:petroleum ether and dried overnight at 90° C. in vacuo to give the title compound as a white solid (2.31 g, 85%), m.p. 144°-146° C.

reactant | N-[[2-chloro-6-methoxy-5-(trifluoromethyl)-1-naphthalenyl]carbonyl]-N-(ethoxycarbonyl)glycine, 1,1-dimethylethyl ester | 6.39 mmol, 3.13 g | ClC1=C(C2=CC=C(C(=C2C=C1)C(F)(F)F)OC)C(=O)N(CC(=O)OC(C)(C)C)C(=O)OCC | C22H23ClF3NO6
solvent | formic acid | 120 mL | C(=O)O | CH2O2
solvent | water | 1.5 L | O | H2O
product | N-[[2-Chloro-6-methoxy-5-(trifluoromethyl)-1-naphthalenyl]carbonyl]-N-(ethoxycarbonyl)glycine | 2.31 g, 85% | ClC1=C(C2=CC=C(C(=C2C=C1)C(F)(F)F)OC)C(=O)N(CC(=O)O)C(=O)OCC | C18H15ClF3NO6
